US05256679
To a stirred solution of N-(1-chloroethoxycarbonyl)-S,N-dimethyl-N'-nitroisothiourea (6.50 g) in CHCl3 (15 ml) was added a solution of 2-chloro-5-thiazolylmethylamine (3.78 g) in CHCl3 (5 ml) dropwise below -20° C. over 20 minutes. After stirring at -20° C. for 30 minutes, insolubles were removed by filtration and the filtrate was concentrated in vacuo. The residue was applied to column chromatography on silica gel. The column was eluted with hexane-AcOEt (1:1) to afford 3.50 g of 1-(1-chloroethoxycarbonyl)-3-(2-chloro-5-thiazolylmethyl)-1-methyl-2-nitroguanidine (Compound No. 12) as an orange oil.

reactant | N-(1-chloroethoxycarbonyl)-S,N-dimethyl-N'-nitroisothiourea | 6.50 g | ClC(C)OC(=O)N(C(SC)=N[N+](=O)[O-])C | C6H10ClN3O4S
reactant | 2-chloro-5-thiazolylmethylamine | 3.78 g | ClC=1SC(=CN1)CN | C4H5ClN2S
solvent | CHCl3 | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(1-chloroethoxycarbonyl)-3-(2-chloro-5-thiazolylmethyl)-1-methyl-2-nitroguanidine | 3.50 g | ClC(C)OC(=O)N(C(=N[N+](=O)[O-])NCC1=CN=C(S1)Cl)C | C9H11Cl2N5O4S
